US07371763B2
3-(4-Pyridinylthio)aniline:
To a solution of 3-aminothiophenol (3.8 mL, 34 mmoles) in anh DMF (90 mL) was added 4-chloropyridine hydrochloride (5.4 g, 35.6 mmoles) followed by K2CO3 (16.7 g, 121 mmoles). The reaction mixture was stirred at room temp. for 1.5 h, then diluted with EtOAc (100 mL) and water (100 mL). The aqueous layer was back-extracted with EtOAc (2×100 mL). The combined organic layers were washed with a saturated NaCl solution (100 mL), dried (MgSO4), and concentrated under reduced pressure. The residue was filtered through a pad of silica (gradient from 50% EtOAc/50% hexane to 70% EtOAc/30% hexane) and the resulting material was triturated with a Et2O/hexane solution to afford the desired product (4.6 g, 66%): TLC (100% ethyl acetate) Rf 0.29; 1H-NMR (DMSO-d6) δ 5.41 (s, 2H), 6.64-6.74 (m, 3H), 7.01 (d, J=4.8, 2H), 7.14 (t, J=7.8 Hz, 1H), 8.32 (d, J=4.8, 2H). A4b. General Method for Substituted Aniline Synthesis Via Nucleophilic Aromatic Substitution Using a Halopyridine

reactant | 3-aminothiophenol | 34 mmoles, 3.8 mL | NC=1C=C(C=CC1)S | C6H7NS
reactant | 4-chloropyridine hydrochloride | 35.6 mmoles, 5.4 g | Cl.ClC1=CC=NC=C1
reactant | K2CO3 | 121 mmoles, 16.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | water | 100 mL | O | H2O
product | 3-(4-Pyridinylthio)aniline | 4.6 g, 66% | N1=CC=C(C=C1)SC=1C=C(N)C=CC1 | C11H10N2S
